US06759429B2
2,3-Diaminopyridine (2.0 g) and a 40% aqueous pyruvic aldehyde solution (3.30 g) were refluxed in ethanol for 20 minutes. The reaction solution was concentrated, and the residue was recrystallized from 2-propanol, collected by filtration, and dried to give 3-methylpyrido[2,3-b]pyrazine (1.61 g, 60%).

reactant | 2,3-Diaminopyridine | 2.0 g | NC1=NC=CC=C1N | C5H7N3
reactant | pyruvic aldehyde | 3.30 g | CC(=O)C=O | C3H4O2
solvent | ethanol | C(C)O | C2H6O
product | 3-methylpyrido[2,3-b]pyrazine | 1.61 g, 60% | CC1=CN=C2C(=N1)N=CC=C2 | C8H7N3
